US08030305B2
difluoro-quinolin-6-yl-acetic acid hydrazide
To a solution of difluoro-quinolin-6-yl-acetic acid ethyl ester (5.5 g, 21.9 mmol) in methanol (85 mL) was added hydrate hydrazine (5.3 mL, 109.5 mmol). The mixture was heated to 45° C. for 10 min., cooled to room temperature, concentrated, and taken up in dichloromethane. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to give a light orange solid (4.4 g, 85%).

reactant | difluoro-quinolin-6-yl-acetic acid ethyl ester | 21.9 mmol, 5.5 g | C(C)OC(C(C=1C=C2C=CC=NC2=CC1)(F)F)=O | C13H11F2NO2
reactant | hydrate hydrazine | 109.5 mmol, 5.3 mL | NN.O
solvent | methanol | 85 mL | CO | CH4O
product | difluoro-quinolin-6-yl-acetic acid hydrazide | 4.4 g, 85% | FC(C(=O)NN)(C=1C=C2C=CC=NC2=CC1)F | C11H9F2N3O
